US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (5.20 g) as a starting compound, 5-bromo-1-(4-hydroxyphenyl)-1-pentanone (3.60 g) and potassium carbonate (8.7 g) were reacted and purified in the same manner as in Example 172 to give 3.71 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-(4-hydroxyphenyl)-5-oxopentyl)-piperidin-4-yl)methyl)benzamide, m.p. 154°-156° C.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 5.20 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-bromo-1-(4-hydroxyphenyl)-1-pentanone | 3.60 g | BrCCCCC(=O)C1=CC=C(C=C1)O | C11H13BrO2
reactant | potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(4-hydroxyphenyl)-5-oxopentyl)-piperidin-4-yl)methyl)benzamide | 3.71 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCC(=O)C2=CC=C(C=C2)O)C=C1Cl)OC | C25H32ClN3O4
